US08703922B2
Synthesis of mono-O-(4,8,12-trimethyltridec-3-enyl)glycerol
0.27 g (55%, 6.2 mmol) of sodium hydride was added to a solution of glycerol 0.57 g (6.2 mmol) in dry N,N-dimethylformamide (6 mL) with cooling on ice. After the mixture was stirred for 30 min at 50° C., the above (4,8,12-trimethyltridec-3-enyl)tosylate was added dropwise, with additional stirring for 10 hours at the same temperature. After addition of water at 0° C., the reaction mixture was extracted with ethyl acetate. The extract was washed with water, 1M hydrochloric acid, saturated sodium bicarbonate aqueous solution, and saturated brine, successively, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated, and the resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane mixture) to obtain 79 mg of the title compound (6% yield in 2 steps). The results of NMR analysis of the obtained compound are as shown below.

reactant | sodium hydride | 6.2 mmol, 0.27 g | [H-].[Na+]
reactant | glycerol | 6.2 mmol, 0.57 g | OCC(O)CO | C3H8O3
reactant | (4,8,12-trimethyltridec-3-enyl)tosylate | CC(=CCCOS(=O)(=O)C1=CC=C(C)C=C1)CCCC(CCCC(C)C)C | C23H38O3S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | mono-O-(4,8,12-trimethyltridec-3-enyl)glycerol | 79 mg, 6% yield | CC(=CCCOCC(O)CO)CCCC(CCCC(C)C)C | C19H38O3
